US05306849
0.4 g of anhydrous aluminium chloride was added to 20 g of 2,3-dimethylphenyl chloroformate and the mixture was heated at 200° C. for 4.5 hours at normal pressure. The reaction mixture was then cooled and worked up as described in Example 1. 2,3-Dimethylchlorobenzene was obtained in a yield of 18%, which is considerable despite the unfavourable substitution pattern.

reactant | aluminium chloride | 0.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2,3-dimethylphenyl chloroformate | 20 g | ClC(=O)OC1=C(C(=CC=C1)C)C | C9H9ClO2
product | 2,3-Dimethylchlorobenzene | yield of 18% | CC1=C(C=CC=C1C)Cl | C8H9Cl
